US06103910
0.59 g (0.001 mol) (R)-1-[6-[(R)-2-Benzyloxycarbonyl-4,4-difluoro-pyrrolidin-1-yl]-6-oxo-hexanoyl]-4,4-difluoropyrrolidine-2-carboxylic acid benzyl ester in 20 ml ethanol were hydrogenated at room temperature and atmospheric pressure in the presence of 0.12 g 5% palladium/carbon. After completion of the reaction the catalyst was filtered off, the solvent was distilled off, and the residue was dissolved in dichloromethane. Evaporation gave 0.4 g (97%) (R)-1-[6-[(R)-2-carboxy-4,4-difluoro-pyrrolidin-1-yl]-6-oxo-hexanoyl]-4,4-difluoropyrrolidine-2-carboxylic acid as a white foam. ISP-

reactant | (R)-1-[6-[(R)-2-Benzyloxycarbonyl-4,4-difluoro-pyrrolidin-1-yl]-6-oxo-hexanoyl]-4,4-difluoropyrrolidine-2-carboxylic acid benzyl ester | 0.001 mol, 0.59 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CC(C1)(F)F)C(CCCCC(=O)N1[C@H](CC(C1)(F)F)C(=O)OCC1=CC=CC=C1)=O | C30H32F4N2O6
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.12 g | [Pd] | Pd
product | (R)-1-[6-[(R)-2-carboxy-4,4-difluoro-pyrrolidin-1-yl]-6-oxo-hexanoyl]-4,4-difluoropyrrolidine-2-carboxylic acid | 0.4 g, 97% | C(=O)(O)[C@@H]1N(CC(C1)(F)F)C(CCCCC(=O)N1[C@H](CC(C1)(F)F)C(=O)O)=O | C16H20F4N2O6
